US04371536
7.8 g of 4-cyano-N-formyltryptophan ethyl ester is dissolved at 0° C. in 40 ml of phosphorus oxychloride and stirred for 18 hours at room temperature. The solution is then concentrated by evaporation in vacuo, the residue partitioned between water and chloroform and the aqueous phase then extracted. The organic phases are washed with water, dried with calcium sulphate and concentrated by evaporation in vacuo. Chromatography on silica gel with methylene chloride-acetone (1:1) of the residue yields 300 mg of 5-cyano-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester of melting point 248° C. in addition to 500 mg of 5-cyano-β-carbolin-3-carboxylic acid ethyl ester of melting point 310° C., by disproportionation of the 5-cyano-3,4-dihydro-β-carbolin-3-carboxylic acid ethyl ester.

reactant | 4-cyano-N-formyltryptophan ethyl ester | 7.8 g | C(C)OC([C@@H](NC=O)CC1=CNC2=CC=CC(=C12)C#N)=O | C15H15N3O3
solvent | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-cyano-1,2,3,4-tetrahydro-β-carbolin-3-carboxylic acid ethyl ester | 300 mg | C(C)OC(=O)C1NCC=2NC3=CC=CC(=C3C2C1)C#N | C15H15N3O2
